US07700641B2
A. Synthesis of 5-fluoro-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1H-indole-2,3-dione
Following the procedure as described in PREPARATION 2A, and making non-critical variations to replace isatin with 5-fluoroisatin, and (2-bromoethyl)cyclopropane with 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (59%) as a red solid: 1H NMR (300 MHz, DMSO-d6) δ 7.54-7.50 (m, 1H), 7.47-7.44 (m, 1H), 7.20 (dd, 1H), 7.14-7.13 (m, 1H), 6.75 (d, 1H), 4.99 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ 182.4 (d), 160.7, 158.5 (d), 157.5, 153.0 (d), 146.5 (d), 139.9 (q), 124.3, 119.3 (d), 114.5 (d), 112.7 (d), 112.0 (d), 110.5, 36.8.

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | (2-bromoethyl)cyclopropane | BrCCC1CC1 | C5H9Br
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 5-fluoro-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1H-indole-2,3-dione | FC=1C=C2C(C(N(C2=CC1)CC=1OC(=CC1)C(F)(F)F)=O)=O | C14H7F4NO3
